US06603005B2
1.14 cm3 of 2-iodoethanol and 1.9 g of potassium carbonate were added to a solution of 4.4 g of ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate in 100 cm3 of anhydrous acetonitrile, with vigorous stirring and under an inert atmosphere. The reaction mixture was stirred for 18 hours in the region of 20° C., filtered and washed with 3 times 30 cm3 of acetonitrile. The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 50° C. The evaporation residue was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 20-45μ; diameter 5 cm; height 32 cm), eluting with dichloromethane/methanol/aqueous ammonia (40/5/0.5 by volume) and collecting 100-cm3 fractions. Fractions 8 to 12 were combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 3.5 g of ethyl 4-[3-(3-fluoroquinolin-4-yl)-propyl]-1-(2-hydroxyethyl)piperidine-4-carboxylate were obtained in the form of a viscous orange-colored oil.

reactant | 2-iodoethanol | 1.14 cm3 | ICCO | C2H5IO
reactant | potassium carbonate | 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate | 4.4 g | FC=1C=NC2=CC=CC=C2C1CCCC1(CCNCC1)C(=O)OCC | C20H25FN2O2
solvent | acetonitrile | 100 cm3 | C(C)#N | C2H3N
product | ethyl 4-[3-(3-fluoroquinolin-4-yl)-propyl]-1-(2-hydroxyethyl)piperidine-4-carboxylate | 3.5 g | FC=1C=NC2=CC=CC=C2C1CCCC1(CCN(CC1)CCO)C(=O)OCC | C22H29FN2O3
